Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
altered mental status
 
Major Surgical or Invasive Procedure:
ET Intubation at OSH
Central Line Placement at ___
 
History of Present Illness:
___ with history of HCV cirrhosis (c/b large-volume ascites 
requiring q weekly paracentesis, hepatic encephalopathy, 
esophageal varices, portal hypertension, who was transfered from 
___ on ___ for altered mental status. 
.  
Patient last saw Dr. ___ on ___, he was having once weekly 
therapeutic paracentesis with 50 g of intravenous albumin. At 
that appointment his diuretics were held due to serum sodium to 
127 and increase in creatinine from 1.4-1.64.
.
He was admitted to ___ on ___ for progressively 
declining mental status, he was intubated for airway protection, 
he had blood culture positive for MSSA and strep midas from 1 
bottle. He was treated with broad spectrum antibiotics which 
were eventually narrowed down to ceftriaxone and then 
discontinued. His hospital course from ___ was notable for 
the development of non-oliguric ___ with a Cr that rose to above 
4 from a previously normal baseline and a serum sodium in the 
mid ___. He was treated with free water flushes and albumin 
resuscitation. Unclear if he responded to this or not in OSH but 
he was started on octeriotide and midodrine. He underwent 2 X 
therapeutic paracenteses for ~5L, which was similar to his 
previous qweekly schedule, he was not found to have SBP.  He was 
unable to be extubated for continued encephalopathy, which was 
attributed to the continuous infusion of midazolam he was 
receiving for sedation and was transfered to ___ for further 
management and evaluation. He had no brain imaging. 
.
On arrival to ___ SICU, the patient was acutely agitated w/o 
focal neuro deficits. He was sedated, labs were notable for 
serum Na of 159 and patient was started on IVD5W treated for 
this with D5W. Sedation was weaned, Na improved to 150, ___ 
started.  ___: hypotensive, a-line, cvl placed, restarted on 
d5w for Na 153, got 4U PRBC, 2U FFP, 2U cryoprecipitate per 
transplant surgery protocol for anemia 23.4 (from previous 
baseline of 36 in ___, self extubated on ___ with clearing 
of mental staus.  He is now being transfered to the floor for 
further management.
 
Past Medical History:
HCV cirrhotic: diagnosed with hepatitis C in late ___, genotype 
1A, nonrespondent to prior antiviral therapy. Decompensated 
since late ___ with fluid overload, abdominal ascites, 
jaundice, hepatic encephalopathy, portal HTN, portal vein 
thrombosis, Ascites w qweekly paracentesis and esophageal 
varices s/p banding  
DM2 w HgbA1c betw ___  
HTN  
OSA  
vitd def  
Umbilical hernia 
.
PSH:  
Uvulectomy  
Deviated septum repair  
Esophageal variceal banding
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Phsyical Exam on Tranfer to the Floor:
VS:  97.7  57  104/52  97%RA
GENERAL: Lying in bed  comfortable, alert, oriented X2 (not 
time), knows he is in the hospital and has been here for 8 days. 

HEENT: Sclera icteric. PERRL, EOMI. dry MMM  
NECK: Supple, no JVD  
CARDIAC: RRR, S1 S2 no m/r/g.  
LUNGS: no tachypnea, mildly reduced airentry and minimal 
bibsilar crackles.  
ABDOMEN: Distended but Soft, non-tender to palpation. caput 
medusa, Dullness to percussion over dependent areas but tympanic 
anteriorly. HSM not appreciated. 
Skin: tatoos, diffuse spider angiomas, mild palmar erythema. 
IV access: left triple lumen IJ, right hand 21 peripheral.   
EXTREMITIES: Warm and well perfused, no clubbing or cyanosis. No 
edema, no evidence of DVT's. 
Neuro: motor ___, no gross sensoium deficits, no asterexis.
.
Discharge Physical Exam:
VS: 98.3  99/60  68  99%RA  ___ 272, 253, 240  2+2BMs  Is/Os: 
___
GENERAL: Lying in bed  comfortable, alert, oriented X3 
HEENT: Sclera icteric. Moist Mucous Membranes  
NECK: Supple, no JVD  
CARDIAC: RRR, S1 S2 no m/r/g.  
LUNGS: No tachypnea, unlabored breathing, clear to auscultation  

ABDOMEN: Distended but Soft, non-tender to palpation. caput 
medusa, Dullness to percussion over dependent areas but tympanic 
anteriorly.  NO signifincat fluid shift. 
Skin: tatoos, diffuse spider angiomas, mild palmar erythema. 
EXTREMITIES: Warm and well perfused, no clubbing or cyanosis. No 
edema, no evidence of DVT's. 
Neuro: Alert and oriented x3.  No asterixis 

 
Pertinent Results:
Pertinent Labs:

___ 10:00PM BLOOD WBC-8.0 RBC-2.27*# Hgb-8.5*# Hct-25.3*# 
MCV-112* MCH-37.6* MCHC-33.7 RDW-17.2* Plt Ct-43*
___ 10:37PM BLOOD WBC-8.0 RBC-2.87* Hgb-10.0* Hct-29.5* 
MCV-103* MCH-34.9* MCHC-33.9 RDW-18.6* Plt Ct-30*
___ 10:00PM BLOOD Neuts-71.1* ___ Monos-5.9 Eos-2.1 
Baso-0.3
___ 10:00PM BLOOD ___ PTT-64.5* ___
___ 10:00PM BLOOD Glucose-307* UreaN-56* Creat-1.8* Na-159* 
K-3.9 Cl-126* HCO3-24 AnGap-13
___ 10:00PM BLOOD ALT-19 AST-45* AlkPhos-60 TotBili-4.4*
___ 02:43AM BLOOD ALT-17 AST-37 AlkPhos-44 TotBili-4.8*
___ 10:00PM BLOOD Albumin-4.1 Calcium-9.5 Phos-2.6* Mg-2.7* 
Iron-96
___ 10:46AM BLOOD Type-ART Rates-/15 Tidal V-489 PEEP-5 
FiO2-40 pO2-157* pCO2-38 pH-7.43 calTCO2-26 Base XS-1 
Intubat-INTUBATED Vent-SPONTANEOU
___ 10:46AM BLOOD Lactate-1.3
.
                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 
.
___ 11:32 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    >100,000 ORGANISMS/ML.. 
.
Blood Culture: Negative.
.
CXR ___: As compared to the previous radiograph, the 
endotracheal tube and the nasogastric tube are removed.  The 
left internal jugular vein catheter is unchanged.  The lung 
volumes have slightly decreased.  However, the pre-existing 
opacities have also decreased and the lungs, notably at the 
right lung base, appears better ventilated.  Areas of 
atelectasis at the left lung base is persist.  There is 
unchanged evidence of mild cardiomegaly and mild 
fluid overload. 
.
RUQ Ultrasound with Doppler: IMPRESSION: ___
1. Preservation of hepatopetal directional flow of the central 
main portal vein branches, although with low velocity of flow.  
2. Cirrhotic liver.  
3. No focal hepatic lesion.  
4. Moderate to large ascites and at least a small right-sided 
pleural effusion.  
5. Splenomegaly.
.
Discharge Labs:
___ 03:00PM BLOOD Hgb-9.6* Hct-29.3*
___ 05:35AM BLOOD WBC-5.6 RBC-2.61* Hgb-9.3* Hct-27.7* 
MCV-106* MCH-35.5* MCHC-33.5 RDW-19.8* Plt Ct-33*
___ 05:35AM BLOOD ___ PTT-61.1* ___
___ 05:35AM BLOOD Glucose-227* UreaN-36* Creat-1.5* Na-130* 
K-4.3 Cl-101 HCO3-21* AnGap-12
___ 05:35AM BLOOD ALT-19 AST-44* AlkPhos-63 TotBili-3.8*
___ 05:35AM BLOOD Albumin-3.9 Calcium-9.1 Phos-2.8 Mg-2.___ with history of HCV cirrhosis (c/b large-volume ascites 
requiring q weekly paracentesis, hepatic encephalopathy, 
esophageal varices, portal hypertension) who was transferred 
from ___ on ___ for altered mental status. 
.
# Altered mental status: Patient presented to ___ 
with altered mental status.  His AMS was thought to be 
multifactorial secondary to combination of hepatic 
encephalopathy, hypernatremia, ___. There was also question of 
bacteremia at OSH with ___ sets of blood culture positive with 
MSSA and strep Midas.  Patient had received vancomycin and zosyn 
as OSH for total of 6 days.  Patient was transitioned to IV 
ceftriaxone on ___. There was no SBP on OSH labs (___ 375 
with 3% polyps with negative however labs tap after patient was 
on antibiotics for more than >48 hours.) Patient remained 
afebrile without leukocytosis and positive blood cultures were 
considered to be contaminant. RUQ ultrasound did not show any 
sign of PVT. CXR without any signs of pneumonia. Blood cultures 
at ___ did not show any growth.  On arrival to ___ his 
sedation was weaned, his lactulose dose was increased, continued 
rifaximin and hypernatremia was managed with D5W boluses.  
Patient self extubated.  His mental status continued to improve 
throughout the course of this hospital stay.  
.
# HCV cirrhosis (VL 260,000 ___: LFT's, INR, albumin 
remained at baseline, MELD score was 24 compared to his baseline 
MELD of 20.  ___ Child B-C.  He was continued on rifaximin and 
lactulose for hepatic encephalopathy.  He was continued nadolol 
for prophylaxis for variceal bleed. Last EGD ___ showed 3 
cords of small esophageal varices which were completely flat 
with air insufflation.  Patient does not have any history of SBP 
and no indication for SBP prophylaxis at this time.  
.
# Ascites: Patient was noted to have mod non-tense ascites on 
exam.  He had therapeutic paracentesis at OSH with removal of 5L 
X2 at OSH. RUQ ultrasound does not show any PVT.  He had repeat 
theraputic paracentesis on ___ with removal of 4L of fluids.  
His diuretics were discontinued as a result of hyponatreamia. 
Patient will have weekly paracentesis for further management of 
ascites. 
.
# Electrolytes Abnormality: Initially hypernatremic ___ poor PO 
intake and recent holding of diuretics.  Resolved with IV free 
water repletion and with allowing patient to drink to thirst.  
On the day of discharge patient was noted to become hyponatremic 
therefore diuretics were discontinued.
.
# Renal failure: Patient's recent baseline is ~1.5.  Per OSH 
report patient had ___ with Cr in the 4 which downtrended with 
giving IVF. He was also started on midodrine and octreotide. At 
___ his creatinine continued to downtrend to his baseline 
level.  
.
# Anemia: likely dilutional from multiple IVF's as well as from 
liver cirrhosis.  He did not have any signs of bleeding. He got 
PRBCx4, Hct stable remained stable after transfusion.  He was 
continued on po PPI.  
. 
# DM2; on Lantus 45 BID at home, however he was started on 15mg 
BID lantus on the floor along with sliding scale.  His blood 
sugars ranged in the 150s-250s. He was discharged on lantus 15mg 
BID and sliding scale which may be adjusted base on his blood 
sugars.
.
# UTI:  UA positive with large leuk and WBC >182.  Patient 
completed 5 days of cipro.  
.
# HTN: not on antihypertensives at home except nadolol.  
Patient's blood pressure was well controlled.  
   
# OSA: Not on CPAP at home. 
   
# Depression: Continued Venlafaxine 

#CODE: Full  
#CONTACT: Patient, Wife: ___ - ___
.
___ of Care:
- Patinet will get weekly labs including chem 10, CBC, LFTs
- Continue daily ___ and ambulate patient at least four times 
daily
- Discharge Weight = 98.8kg
- please follow ___ glucose, patients home glargine was reduced 
from 45 BID to 20 BID during this admission. He may need this to 
be uptitrated as his dietary intake improves. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Spironolactone 100 mg PO DAILY 
2. Nadolol 40 mg PO DAILY 
3. Venlafaxine XR 75 mg PO DAILY 
4. Vitamin D 50,000 UNIT PO 1X/WEEK (MO) 
5. FoLIC Acid 1 mg PO DAILY 
6. Glargine 45 Units Breakfast
Glargine 45 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
7. Furosemide 80 mg PO BID 
8. Magnesium Oxide 400 mg PO DAILY 
9. Pantoprazole 40 mg PO Q24H 
10. Thiamine 100 mg PO DAILY 
11. Rifaximin 550 mg PO BID 
12. Lactulose 15 mL PO BID 

 
Discharge Medications:
1. FoLIC Acid 1 mg PO DAILY 
2. Nadolol 40 mg PO DAILY 
3. Pantoprazole 40 mg PO Q24H 
4. Rifaximin 550 mg PO BID 
5. Thiamine 100 mg PO DAILY 
6. Venlafaxine XR 75 mg PO DAILY 
7. Magnesium Oxide 400 mg PO DAILY 
8. Lactulose 15 mL PO TID 
9. Glargine 20 Units Breakfast
Glargine 20 Units Bedtime
Insulin SC Sliding Scale using REG Insulin
10. Outpatient Lab Work
Please check weekly labs including CBC, Chem 10, LFTs, ___, PTT 
and fax results to ___ transplant clinic at ___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
1. Altered mental status likely secondary to hepatic and/or 
metabolic encephalopathy
2. Acute on chronic renal failure
3. Anemia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Mr. ___, it was a pleasure taking care of you during 
your hospital stay at ___.  You were transfered from outside 
hosptial because of confusion.  After having multiple bowel 
movements with lactulose and fixing your electolytes 
abnormalities, your confusion resolved by the day of discharge.  
Please continue to take your lactulose regularly and titrate to 
___ bowel movements/day. Please follow up with your liver 
doctor, ___ further care (see below)

During this admission you had paracentesis which removed 4L of 
fluid. Please schedule weekly paracentesis and get weekly labs 
at ___.  

During this admission, your insulin lantus was decreased to 20mg 
BID.  Please monitor you blood sugars closely.  You may need 
increased dose of your lantus based on your blood sugars.
 
Followup Instructions:
___